US07727988B2
1-(4-Chloro-butyl)-5-(2-methyl-pyridin-4-yl)-1H-pyrimidine-2,4-dione (Prep46)
3-Benzoyl-1-(4-chloro-butyl)-5-(2-methyl-pyridin-4-yl)-1H-pyrimidine-2,4-dione (Prep 45, 100 mg, 0.25 mmol) was dissolved in a solution of 3% NH3 in MeOH (5 mL). The mixture was stirred at room temperature for 3 hours, the solvent was then evaporated under vacuum to give the title compound that was used in the next step without further purification.

reactant | 3-Benzoyl-1-(4-chloro-butyl)-5-(2-methyl-pyridin-4-yl)-1H-pyrimidine-2,4-dione | 0.25 mmol, 100 mg | C(C1=CC=CC=C1)(=O)N1C(N(C=C(C1=O)C1=CC(=NC=C1)C)CCCCCl)=O | C21H20ClN3O3
solvent | NH3 | N | H3N
solvent | MeOH | 5 mL | CO | CH4O
product | 1-(4-Chloro-butyl)-5-(2-methyl-pyridin-4-yl)-1H-pyrimidine-2,4-dione | ClCCCCN1C(NC(C(=C1)C1=CC(=NC=C1)C)=O)=O | C14H16ClN3O2
